US04025647
30% w/v Aqueous hydrogen peroxide solution (1.5 ml.) is added to a solution of 2'-chloro-4'-nitro-5-(2,4,5-trichlorophenylthio)-3-t-butyl-6-methylsalicylanilide (0.4 g.) in acetic acid (15 ml.) at 50°-60° C. The mixture is heated at 95°-100° C. for 30 minutes and is then poured into ice cold water (200 ml.). The precipitated solid thus obtained is crystallised twice from acetic acid to give 2'-chloro-4'-nitro-5-(2,4,5-trichlorophenylsulphinyl)-3-t-butyl-6-methylsalicylanilide, m.p. 245°-246° C.

reactant | hydrogen peroxide | 1.5 ml | OO | H2O2
reactant | 2'-chloro-4'-nitro-5-(2,4,5-trichlorophenylthio)-3-t-butyl-6-methylsalicylanilide | 0.4 g | ClC1=C(NC(C=2C(O)=C(C=C(C2C)SC2=C(C=C(C(=C2)Cl)Cl)Cl)C(C)(C)C)=O)C=CC(=C1)[N+](=O)[O-] | C24H20Cl4N2O4S
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2'-chloro-4'-nitro-5-(2,4,5-trichlorophenylsulphinyl)-3-t-butyl-6-methylsalicylanilide | ClC1=C(NC(C=2C(O)=C(C=C(C2C)S(=O)C2=C(C=C(C(=C2)Cl)Cl)Cl)C(C)(C)C)=O)C=CC(=C1)[N+](=O)[O-] | C24H20Cl4N2O5S
